US04720499
A solution of 11.3 g (27 mMole) ethyl (±)-1,4-dihydro-5-isopropoxy-2-methyl-4-(2-trifluoro methylphenyl)-1,6-naphthyridine-3-carboxylate in 200 ml dimethylformamide is added dropwise, under an atmosphere of nitrogen, to a suspension of 1.0 g (33 mMole) sodium hydride (80% in oil) in 20 ml dry dimethylformamide. After cessation of the gas evolution, the reaction mixture is stirred for 10 minutes at ambient temperature and subsequently 2.5 g (31 mMole) s-triazine in 20 ml dimethylformamide are added dropwise thereto. The reaction mixture is stirred for 16 hours at 105° C. and, after cooling, evaporated in a vacuum. The residue is chromatographed on silica gel with dichloromethane/methanol (95:5 v/v) and the fraction with an Rf of 0.6 is isolated and recrystallized from ethyl acetate/ethanol (9:1 v/v). There is obtained (±)-1,2,5,10-tetrahydro-9-isopropoxy-1-oxo-10-(2-trifluoromethylphenyl)-pyrido[4,3-b][1,6]naphthyridine in the form of colorless crystals; mp 315° C.

reactant | ethyl (±)-1,4-dihydro-5-isopropoxy-2-methyl-4-(2-trifluoro methylphenyl)-1,6-naphthyridine-3-carboxylate | 27 mMole, 11.3 g | C(C)(C)OC1=C2C(C(=C(NC2=CC=N1)C)C(=O)OCC)C1=C(C=CC=C1)C(F)(F)F | C22H23F3N2O3
reactant | sodium hydride | 33 mMole, 1.0 g | [H-].[Na+]
reactant | s-triazine | 31 mMole, 2.5 g | N1=CN=CN=C1 | C3H3N3
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | (±)-1,2,5,10-tetrahydro-9-isopropoxy-1-oxo-10-(2-trifluoromethylphenyl)-pyrido[4,3-b][1,6]naphthyridine | C(C)(C)OC1=NC=CC=2NC=3C=CNC(C3C(C21)C2=C(C=CC=C2)C(F)(F)F)=O | C21H18F3N3O2
